US07858640B2
[8-chloro-4-difluoromethoxy-2-ethyl-3-(4-methanesulfonylbenzyl)quinolin-5-yloxy]acetic Acid
A solution of [8-chloro-4-difluoromethoxy-2-ethyl-3-(4-methanesulfonylbenzyl)quinolin-5-yloxy]acetic acid methyl ester (0.10 g), methanol (5.0 mL), water (1.0 mL) and saturated aqueous lithium hydroxide solution (0.5 mL) was stirred at room temperature for 45 minutes. The pH of the solution was adjusted to 5 by the addition of glacial acetic acid and the methanol removed under reduced pressured. The residue was diluted with water (2.0 mL) and the resulting precipitate collected by filtration, washed with water and dried to afford title compound as a white solid, 0.075 g.

reactant | [8-chloro-4-difluoromethoxy-2-ethyl-3-(4-methanesulfonylbenzyl)quinolin-5-yloxy]acetic acid methyl ester | 0.10 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)CC)CC1=CC=C(C=C1)S(=O)(=O)C)OC(F)F)=O | C23H22ClF2NO6S
reactant | methanol | 5.0 mL | CO | CH4O
reactant | water | 1.0 mL | O | H2O
reactant | lithium hydroxide | 0.5 mL | [OH-].[Li+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [8-chloro-4-difluoromethoxy-2-ethyl-3-(4-methanesulfonylbenzyl)quinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)CC)CC1=CC=C(C=C1)S(=O)(=O)C)OC(F)F)OCC(=O)O | C22H20ClF2NO6S
